US04143020
By procedure 7)a) above, β-hydroxyethyl methacrylate is esterified with an equimolar amount of allyl-sulfo-succinic anhydride obtained by the sulfonation of allyl-succinic acid anhydride obtained from propene and maleic anhydride by a procedure analogous to that of 8)b) hereinabove.

reactant | β-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | allyl-sulfo-succinic anhydride | C(C=C)C1(C(=O)OC(C1)=O)S(=O)(=O)O | C7H8O6S
product | allyl-succinic acid anhydride | C(C=C)C1C(=O)OC(C1)=O | C7H8O3
